US05760032
4-(2-Chlorophenyl)-2-ethyl-9-trifluoromethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (1.0 g) was added to 10% hydrochloric acid (20 ml), and the mixture was stirred at 70° C. overnight. Then, sodium hydrogencarbonate was added to the reaction mixture to make the mixture alkaline. Chloroform (20 ml) and 3,4-dichlorobenzoyl chloride (0.58 g) were added, and the mixture was stirred under ice-cooling for 1 hour. Then, the organic layer was washed with an aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from ethyl acetate-hexane to give 0.60 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide.

reactant | 4-(2-Chlorophenyl)-2-ethyl-9-trifluoromethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.0 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C(F)(F)F | C17H12ClF3N4S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 0.58 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide | 0.60 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C(F)(F)F)CNC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C24H16Cl3F3N4O2S
